US04983607
1.5 g (7.15 mmol) of (±)-4-(2-chloroethyl)-3,4-dihydro-2(1H)-quinolinone are mixed intimately with 3.65 g (15 mmol) of 1-(7-methoxy-1-naphthyl)piperazine and the mixture is heated to 130° C. for 1 h while stirring. The cooled residue is taken up between 25 ml of 2N sodium hydroxide and twice 50 ml of dichloromethane. The organic extract is washed with water, dried over magnesium sulphate and concentrated. The residue is purified by elution with a dichloromethane/methanol (95:5) mixture on a silica column. The purified fraction is crystallized in ether and this solid is drained and dried. 2.6 g (87.5%) of (±)-4-{2-[4-(7-methoxy-1-naphthyl)-1-piperazinyl]ethyl}-3,4-dihydro-2(1H)-quinolinone, melting point 177°-178° C., are obtained.

reactant | (±)-4-(2-chloroethyl)-3,4-dihydro-2(1H)-quinolinone | 7.15 mmol, 1.5 g | ClCCC1CC(NC2=CC=CC=C12)=O | C11H12ClNO
reactant | 1-(7-methoxy-1-naphthyl)piperazine | 15 mmol, 3.65 g | COC1=CC=C2C=CC=C(C2=C1)N1CCNCC1 | C15H18N2O
reactant | sodium hydroxide | 2N, 25 ml | [OH-].[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (±)-4-{2-[4-(7-methoxy-1-naphthyl)-1-piperazinyl]ethyl}-3,4-dihydro-2(1H)-quinolinone | 2.6 g, 87.5% | COC1=CC=C2C=CC=C(C2=C1)N1CCN(CC1)CCC1CC(NC2=CC=CC=C12)=O | C26H29N3O2
